US06617339B1
5-Benzyloxycarbonylamino-2-(2-methyl-imidazol-1-yl)fluorobenzene
5-Amino-2-(2-methyl-imidazol-1-yl)fluorobenzene (34.25 g, 0.179 M) was dissolved in dry dichloromethane (600 ml) under nitrogen, and cooled to −5°. Pyridine (17.7 g, 0.224 M) was added, followed by benzyl chloroformate (33.7 g, 0.197 M) over 20 minutes. The mixture was stirred and the temperature allowed to rise to ambient over 16 hours. Aqueous sodium bicarbonate (5%, 250 ml) was added, the organic layer separated, the aqueous layer re-extracted with dichloromethane (2×300 ml), and combined extracts dried (magnesium sulfate). After filtration and evaporation, the residue was recrystallised from toluene (400 ml) to give title product (54.5 g).

reactant | 5-Amino-2-(2-methyl-imidazol-1-yl)fluorobenzene | 0.179 M, 34.25 g | NC=1C=CC(=C(C1)F)N1C(=NC=C1)C | C10H10FN3
reactant | Pyridine | 0.224 M, 17.7 g | N1=CC=CC=C1 | C5H5N
reactant | benzyl chloroformate | 0.197 M, 33.7 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 5-Benzyloxycarbonylamino-2-(2-methyl-imidazol-1-yl)fluorobenzene | 54.5 g | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=C(C1)F)N1C(=NC=C1)C | C18H16FN3O2
